US05057504
Acetyl chloride (81 μl) was added to a stirred solution of 3-(4-n-propyl-2,6,7-trioxabicyclo[2.2.2]oct-1-yl)piperidine (0.25 g.) and pyridine (92 μl) in dichloromethane (15 ml) at 0°. The mixture was stirred at room temperature for 3 hours. The mixture was washed with water, saturated aqueous sodium hydrogen carbonate solution and finally brine. The dichloromethane extracts were dried over anhydrous magnesium sulphate and evaporated in vacuo. The residue was purified by chromatography on alumina (Alumina Woelm TSC) eluting with 1:3 dichlormethane:hexane, saturated with ammonia. N-Acetyl- 3-(4-n-propyl-2,6,7-trioxabicyclo[2.2.2]oct-1-yl)piperidine (0.15 g.) was obtained as a colourless oil.

reactant | Acetyl chloride | 81 μl | C(C)(=O)Cl | C2H3ClO
reactant | 3-(4-n-propyl-2,6,7-trioxabicyclo[2.2.2]oct-1-yl)piperidine | 0.25 g | C(CC)C12COC(OC1)(OC2)C2CNCCC2 | C13H23NO3
reactant | pyridine | 92 μl | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | N-Acetyl- 3-(4-n-propyl-2,6,7-trioxabicyclo[2.2.2]oct-1-yl)piperidine | 0.15 g | C(C)(=O)N1CC(CCC1)C12OCC(CO1)(CO2)CCC | C15H25NO4
